US08431563B2
To a 100-mL round-bottomed flask was added 2-((2-methoxy-4-pyridinyl)methyl)piperazine (350 mg, 1.69 mmol), triethylamine (0.353 mL, 2.54 mmol), and 2-thiophenesulfonyl chloride (0.34 mL, 1.86 mmol, Aldrich, St. Louis, Mo.) in DCM (5 mL). The reaction mixture was stirred at 0° C. for 30 min. The reaction mixture was diluted with saturated NaHCO3 (10 mL) and extracted with EtOAc (2×40 mL). The organic extract was washed with saturated NaCl (5 mL) and dried over Na2SO4. The solution was filtered and concentrated in vacuo to give the crude material as light-yellow oil. The crude product was purified by silica gel chromatography, eluting with 10% MeOH/EtOAc to give 3-((2-methoxy-4-pyridinyl)methyl)-1-(2-thiophenylsulfonyl)piperazine (198 mg) as colorless glass.

reactant | 2-((2-methoxy-4-pyridinyl)methyl)piperazine | 1.69 mmol, 350 mg | COC1=NC=CC(=C1)CC1NCCNC1 | C11H17N3O
reactant | triethylamine | 2.54 mmol, 0.353 mL | C(C)N(CC)CC | C6H15N
reactant | 2-thiophenesulfonyl chloride | 1.86 mmol, 0.34 mL | S1C(=CC=C1)S(=O)(=O)Cl | C4H3ClO2S2
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
solvent | NaHCO3 | 10 mL | C(=O)(O)[O-].[Na+]
product | 3-((2-methoxy-4-pyridinyl)methyl)-1-(2-thiophenylsulfonyl)piperazine | 198 mg | COC1=NC=CC(=C1)CC1CN(CCN1)S(=O)(=O)C=1SC=CC1 | C15H19N3O3S2
